### PR TITLE
Define "Kleisli style" Monad

### PR DESCRIPTION
**Pull request by jojhelfer**
and prove equivalence with "monoidal" definition.
Also define helper lemma for proving equality of (monoidal) Monads

### CODE REVIEW

File: UniMath/CategoryTheory/Monads.v [hunk 1]
```diff
@@ -378,4 +378,88 @@ Qed.
...
+  End Monad'_def.
+
+  (** * Equivalence of Monad and Monad' *)
+  Section Monad_Monad'_equiv.
+    Definition Monad'_to_Monad {C : precategory} (T : Monad' C) : Monad C :=
+      (Monad'_data_to_Monad_data (pr1 T),, pr2 T).
+
+    Definition Monad_to_raw_data {C : precategory} (T : Monad C) : raw_Monad_data C.
+    Proof.
+      mkpair.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monads.v]: Use bullets or `exists (functor_on_objects T)`.

File: UniMath/CategoryTheory/Monads.v [hunk 2]
```diff
@@ -378,4 +378,88 @@ Qed.
...
+
+    Definition Monad_to_Monad'_to_Monad {C : precategory} (T : Monad C) :
+      Monad'_to_Monad (Monad_to_Monad' T) = T := (idpath T).
+
+  End Monad_Monad'_equiv.
+
+  Lemma Monad'_eq_raw_data {C : precategory} (hs : has_homsets C) (T T' : Monad' C) :
+    pr1 (pr1 T) = pr1 (pr1 T') -> T = T'.
+  Proof.
+    intro e.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monads.v]: Use bullets in this proof.

File: UniMath/CategoryTheory/Kleisli.v [hunk 3]
```diff
@@ -0,0 +1,155 @@
...
+    Monad_to_kleisli (kleisli_to_Monad T) = T.
+  Proof.
+    apply subtypeEquality'.
+    - use total2_paths_f.
+      + apply idpath.
+      + rewrite idpath_transportf.
+        apply dirprod_paths.
+        * apply idpath.
+        * repeat (apply funextsec; unfold homot; intro).
+          simpl.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Kleisli.v]: You can combine several such tactics into one, as in
```
simpl; unfold Monads.bind; simpl.
``` 
which makes the proof a bit more compact.

File: UniMath/CategoryTheory/Kleisli.v [hunk 4]
```diff
@@ -0,0 +1,155 @@
+(** **********************************************************
+Contents:
+        - "Kleisli" definition of monad
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Kleisli.v]: Please insert link to identifier.

File: UniMath/CategoryTheory/Kleisli.v [hunk 5]
```diff
@@ -0,0 +1,155 @@
...
+Require Import UniMath.CategoryTheory.functor_categories.
+Require Import UniMath.CategoryTheory.Monads.
+
+Local Open Scope cat.
+
+(** * Definition of "Kleisli style" monad *)
+Section kleisli_def.
+
+  Definition kleisli_data (C : precategory) : UU :=
+    ∑ T : C → C, ((∏ a : C, a --> T a) × (∏ a b : C, a --> T b -> T a --> T b)).
```
Comment (rmatthes) [inline UniMath/CategoryTheory/Kleisli.v]: On quick reading, one could very easily overlook that T is just the object mapping of a functor - while the unicode symbol U+2192 is a much shorter arrow in my terminal than U+27F6, I can hardly tell the difference in my view of GitHub on Firefox. Maybe there should be simply a comment stressing that there is no functor involved?

File: UniMath/CategoryTheory/Monads.v (hunk 1 above)
Comment (jojhelfer) [inline UniMath/CategoryTheory/Monads.v]: Done (bullets)

File: UniMath/CategoryTheory/Monads.v (hunk 2 above)
Comment (jojhelfer) [inline UniMath/CategoryTheory/Monads.v]: Done

File: UniMath/CategoryTheory/Kleisli.v (hunk 4 above)
Comment (jojhelfer) [inline UniMath/CategoryTheory/Kleisli.v]: Done

File: UniMath/CategoryTheory/Kleisli.v (hunk 3 above)
Comment (jojhelfer) [inline UniMath/CategoryTheory/Kleisli.v]: Done

File: UniMath/CategoryTheory/Kleisli.v (hunk 5 above)
Comment (jojhelfer) [inline UniMath/CategoryTheory/Kleisli.v]: Good point. I just used `->` instead.
